US07265120B2
To a suspension 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide 4-oxide (1.65 g) in DMF (33 ml), phosphorous oxychloride (1.59 ml) was added below −30° C. and the mixture was stirred at 0-5° C. for one hour. The reaction mixture was poured into ice-water (132 ml), stirred at 40-50° C. for 2 hours, adjusted to pH 8 with 30% aq. NaOH solution under ice-cooling and a precipitate was collected by filtration. The precipitate was purified by column chromatography on silica gel eluting with a mixture of MeOH and EtOAc (2:98 v/v) to give 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide as a solid (682 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide 4-oxide | 1.65 g | NC=1C(=NC(=C[N+]1[O-])C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C12H14N6O3
reactant | NaOH | [OH-].[Na+]
reactant | phosphorous oxychloride | 1.59 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 33 ml | CN(C)C=O | C3H7NO
product | 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide | 682 mg | NC=1C(=NC(=C(N1)Cl)C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C12H13ClN6O2
